US07105531B2
8-Chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile
A suspension of 190.0 mg (0.59 mmol) of 3-[2-(4-morpholinyl)ethyl]-8-oxo-5,8-dihydro-3H-imidazo[4,5-g]quinoline-7-carbonitrile, 5.45 mL of 2M oxalyl chloride (in methylene chloride) and 5 drops of DMF is heated at reflux temperature for 1.5 hours. After cooling, the solvent is evaporated to dryness. The residue is cooled in an ice bath and neutralized to pH 7 by slow addition of ice-cooled, aqueous saturated sodium bicarbonate solution. The aqueous solution is extracted with methylene chloride. The organic phase is washed with cold brine and dried over sodium sulfate. Removal of the solvent in vacuo gives the crude product. Purification of the crude product by preparative TLC (developing solvent: 5:95 methanol/methylene chloride) gives 122.8 mg (61%) of the product as a yellow solid, mp 205–207° C.

reactant | 3-[2-(4-morpholinyl)ethyl]-8-oxo-5,8-dihydro-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 0.59 mmol, 190.0 mg | N1(CCOCC1)CCN1C=NC2=CC=3C(C(=CNC3C=C21)C#N)=O | C17H17N5O2
reactant | oxalyl chloride | 2M, 5.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 8-Chloro-3-[2-(4-morpholinyl)ethyl]-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 122.8 mg, 61% | ClC1=C(C=NC=2C=C3C(=CC12)N=CN3CCN3CCOCC3)C#N | C17H16ClN5O
